US04911862
Synthesis of 3,3'-difluoro-4,4'-dihydroxybiphenyl:
Flaky metallic magnesium (2.43 g) was added to 50 ml of dry tetrahydrofuran, and while the mixture was heated, a solution of 20.5 g of 4-bromo-2-fluoroanisole in 100 ml of dry tetrahydrofuran was added dropwise little by little in a stream of nitrogen to prepare a tetrahydrofuran solution of 3-fluoro-4-methoxy-phenyl magnesium bromide. Then, 18.0 g of 4-bromo-2-fluoroanisole was added to 100 ml of dry tetrahydrofuran containing 0.05 g of iodine and 0.1 g of palladium chloride. The mixture was maintained at 40° to 50° C. in a stream of nitrogen, and the above-prepared tetrahydrofuran solution of 3-fluoro-4-methoxyphenyl magnesium bromide was added dropwise gradually. The addition was completely in about 1 hour, and thereafter, the mixture was reacted for 5 hours at the refluxing temperature of tetrahydrofuran. After the reaction, the reaction mixture was after-treated in a customary manner to give 38.2 g of a crude product. The desired product was isolated from the crude product by silica gel column chromatography using ethyl acetate/hexane as an eluent. Thus, 15.0 g of 3,3'-difluoro-4,4'-dimethoxybiphenyl was obtained.

reactant | magnesium | 2.43 g | [Mg] | Mg
reactant | 4-bromo-2-fluoroanisole | 20.5 g | BrC1=CC(=C(C=C1)OC)F | C7H6BrFO
reactant | 3-fluoro-4-methoxy-phenyl magnesium bromide | FC=1C=C(C=CC1OC)[Mg]Br
reactant | 4-bromo-2-fluoroanisole | 18.0 g | BrC1=CC(=C(C=C1)OC)F | C7H6BrFO
reactant | iodine | II | I2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium chloride | 0.1 g | [Pd](Cl)Cl
solvent | tetrahydrofuran | 100 ml, 0.05 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3,3'-difluoro-4,4'-dihydroxybiphenyl | FC=1C=C(C=CC1O)C1=CC(=C(C=C1)O)F | C12H8F2O2
